US08110681B2
A mixture of 7-methyl-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxylic acid (1.72 g, 8.8 mmol) in ethanol (100 mL) was cooled to 0° C. and stirred for 1 h prior to dropwise addition of thionyl chloride (3.9 mL, 53.2 mmol) over 1 h. After this time, the mixture was warmed to room temperature for 1 h, then transferred to an oil bath, and heated to 70° C. overnight. The mixture was then cooled to room temperature and 2 N hydrochloric acid (50 mL) added slowly followed by diethyl ether (50 mL). The aqueous layer was extracted twice with diethyl ether (50 mL), the combined organic layers washed with brine (100 mL), dried over magnesium sulfate, and concentrated under reduced pressure to afford ethyl 7-methyl-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxylate (1.7 g, 89%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 7.51 (s, 1H), 6.70 (s, 1H), 4.30 (q, J=7.0, 7.5 Hz, 2H), 4.26 (m, 4H), 2.49 (s, 3H), 1.36 (t, J=7.0, 7.5 Hz, 3H).

reactant | 7-methyl-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxylic acid | 8.8 mmol, 1.72 g | CC=1C(=CC2=C(OCCO2)C1)C(=O)O | C10H10O4
reactant | thionyl chloride | 53.2 mmol, 3.9 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 2 N, 50 mL | Cl | ClH
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 7-methyl-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxylate | 1.7 g, 89% | CC=1C(=CC2=C(OCCO2)C1)C(=O)OCC | C12H14O4
